* C:\Users\bayra\OneDrive\Documents\LTspice\Draft12.asc
V1 N003 N006 12v
V2 N002 N007 14v
R1 N004 N003 2.2k
R3 N006 0 1k
R4 N004 N005 4.7k
R5 N005 N007 6.8k
R6 N007 0 1.5k
R7 N002 N001 4.7k
R2 N001 0 1.5k
.op
.backanno
.end
